US04496581
C. 2-Bromo-3-(2-thienyl)-1-propene
A 1000 ml 3-necked round-bottomed flask was fitted with a mechanical stirrer through a mineral oil sealed bearing, a reflux condenser and a 1000 ml addition funnel. A mixture of 70 g of 2,3-dibromopropene and 100 ml of dry ethyl ether was added. The flask was now cooled to 0° C. in acetone/dry-ice and a solution of thienyl magnesium bromide, prepared from 7.8 of magnesium 50 g of 2-bromothiophene (0.31 mol) and 260 ml of dry ether was added at such a rate so that the temperature did not exceed 38° C. The addition took about 1.5 hrs. Stirring was continued and the acetone/dry-ice bath was replaced with a heating mantle. The mixture was gently refluxed for 1.5 hrs. after which time the flask was again cooled and a solution of 5 ml of 36% hydrochloric acid and 200 g of ice were added. The contents of the flask were then transferred to a separatory funnel, and the ether layer was separated and dried over anhydrous sodium sulfate. The ether was distilled off and the residue was fractionated under reduced pressure (65°-78° C./0.5 mm) yielding 41.8 g (67 percent of theory). The residue, 26 g, consisted mainly of diphenyl, m.p. 69°-71° C.

reactant | 2,3-dibromopropene | 70 g | BrC(=C)CBr | C3H4Br2
reactant | thienyl magnesium bromide | S1C(=CC=C1)[Mg]Br
reactant | magnesium | 50 g | [Mg] | Mg
reactant | 2-bromothiophene | 0.31 mol | BrC=1SC=CC1 | C4H3BrS
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | acetone dry-ice | CC(=O)C.C(=O)=O
solvent | ether | 260 ml | CCOCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-Bromo-3-(2-thienyl)-1-propene | BrC(=C)CC=1SC=CC1 | C7H7BrS
